US07351725B2
6-Hydroxy-2-naphthaldehyde
Aluminum trichloride (1.07 g, 8.06 mmol) was added to a solution of 6-methoxy-2-naphthaldehyde (1.0 g, 5.37 mmol) in chlorobenzene (15 mL). The reaction mixture was stirred at 130° C. for 4 h. The reaction was quenched with water (5 mL) and conc. HCl (2 mL). The reaction mixture was dissolved in ethyl acetate and washed with water and brine and dried over anhydrous magnesium sulfate. Silica gel chromatography eluting with 10% ethyl acetate/hexane yielded 0.35 g of desired product: ESI-MS173.0 (M+H).

reactant | Aluminum trichloride | 8.06 mmol, 1.07 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 6-methoxy-2-naphthaldehyde | 5.37 mmol, 1.0 g | COC=1C=C2C=CC(=CC2=CC1)C=O | C12H10O2
solvent | chlorobenzene | 15 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 6-Hydroxy-2-naphthaldehyde | 0.35 g | OC=1C=C2C=CC(=CC2=CC1)C=O | C11H8O2
